US06531491B1
2-Amino-N-methyl-3-nitro-benzamide (1.4 g, 7.2 mmol) was reduced by hydrogenation using 50 psi of H2 with 10% Pd—C (250 mg) in EtOAc (25 mL) for 5 h. After filtering through Celite, solvent was removed in vacuo. Purification by silica gel chromatography (10% MeOH/CHCl3) gave 1.08 mg (91%) of 2,3-diamino-N-methyl-benzamide as a faintly yellow solid. 1H NMR (300 MHz, CDCl3) δ 6.87 (dd, 1H, J=7.8, 1.5 Hz), 6.76 (dd, 1H, J=7.8, 1.5 Hz), 6.59 (t, 1H, J=7.8 Hz), 6.14 (br s, 1H), 4.28 (br s, 4H), 2.95 (d, 3H, J=5.1 Hz).

reactant | 2-Amino-N-methyl-3-nitro-benzamide | 7.2 mmol, 1.4 g | NC1=C(C(=O)NC)C=CC=C1[N+](=O)[O-] | C8H9N3O3
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
catalyst | Pd—C | 250 mg | [Pd] | Pd
product | 2,3-diamino-N-methyl-benzamide | 1.08 mg, 91% | NC1=C(C(=O)NC)C=CC=C1N | C8H11N3O
